US05753663
To a solution of 5-methoxy-2-methoxymethylene-1-tetralone (9.78 g) in tetrahydrofuran (200 ml) was added 2-methyl-2-thiopseudourea sulfate (8.34 g), followed by potassium carbonate (9.7 g), and the mixture was refluxed overnight. Solvent was then removed under reduced pressure, the residue stirred with diethyl ether, and filtered. Concentration of the filtrate gave a brown solid, which upon crystallization from ethanol gave 7-methoxy-2-methylthio-5,6-dihydrobenzo[h]quinazoline (8.3 g) as a light brown solid.

reactant | 5-methoxy-2-methoxymethylene-1-tetralone | 9.78 g | COC1=C2CCC(C(C2=CC=C1)=O)=COC | C13H14O3
reactant | 2-methyl-2-thiopseudourea sulfate | 8.34 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 7-methoxy-2-methylthio-5,6-dihydrobenzo[h]quinazoline | 8.3 g | COC1=CC=CC2=C1CCC=1C=NC(=NC21)SC | C14H14N2OS
